Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Percutaneous Coronary Intervention with drug eluting stent 
placement.
 
History of Present Illness:
___ year old female with PMH significant for CAD and aortic 
stenosis s/p hybrid procedure including mid LAD stenting and 
subsequent open heart surgery with AVR with bioprosthesis in 
___.  In ___ the patient was treated at ___ 
___ for an episode of recurrent clinical angina for which 
she ruled out for an MI.  She describes this as chest and
throat "pressure."  She underwent diagnostic cardiac 
catheterization ___ at ___ which revealed an eccentric 
smooth bordered 80% mid LAD stenosis immediately prior to the 
origin of a very large major diagonal branch and a focal 
eccentric 95% mid LAD stenosis just after the origin of the same 
diagonal vessel.  The patient is now referred for planned 
LAD-Diagonal branch PCI of these lesions.
During the procedure, a DES was placed into a large diagonal off 
of the mid LAD. A severely retroflexed smaller LAD was found to 
be jailed, slow flow, and they were unable to rescue. 
After the procedure the patient was transfered to the CCU. Was 
hemodynamically stable, feeling fine. Denies chest pain and SOB.
.  
Cardiac review of systems is notable for presence of chest pain. 
Negative for dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: negative for diabetes. Positive for 
dyslipidemia and hypertension.
2. CARDIAC HISTORY:  
- severe aortic stenosis 
- CAD s/p MI in setting of post op hip surgery. Underwent hybrid 
procedure involving stenting of the mid LAD with a Cyper stent 
as well as subsequent open heart surgery involving replacement 
of her aortic valve with a  21mm CE Magna pericardial 
bioprosthesis AVR in ___

3. OTHER PAST MEDICAL HISTORY:  
Mild stroke per pt report
History of adult onset asthma
Peptic ulcer
Gall bladder surgery
Bilateral knee replacements
Hip replacement, left
Cataracts, bilateral
Tonsillectomy
Appendectomy
Hysterectomy
Hemorrhoidectomy
Skin cancer lesions removed
s/p typhoid fever as a child

 
Social History:
___
Family History:
- No family history of early MI, arrhythmia, cardiomyopathies, 
or sudden cardiac death; otherwise non-contributory.  
- Mother:  Died of an MI age ___.
- Father:  Died of cancer.
 
Physical Exam:
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple. No JVP appreciated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, sistolic murmur best heard at right upper sternal 
border.  No thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No edema. Groin site with good pulse, no hematoma 
and no bruit appreciated.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
___ 05:52PM BLOOD WBC-6.3 RBC-3.89* Hgb-12.0 Hct-35.5* 
MCV-91 MCH-30.7 MCHC-33.7 RDW-13.2 Plt ___
___ 05:16AM BLOOD WBC-6.6 RBC-3.84* Hgb-12.0 Hct-35.5* 
MCV-92 MCH-31.2 MCHC-33.8 RDW-12.9 Plt ___
___ 05:52PM BLOOD ___ PTT-97.2* ___
___ 05:52PM BLOOD Glucose-109* UreaN-18 Creat-0.8 Na-140 
K-4.4 Cl-105 HCO3-28 AnGap-11
___ 05:16AM BLOOD Glucose-110* UreaN-18 Creat-0.9 Na-140 
K-3.9 Cl-105 HCO3-28 AnGap-11
___ 10:50PM BLOOD CK-MB-2
___ 05:16AM BLOOD CK-MB-2
1. Coronary angiography in this right dominant system 
demonstrated 80% 
mid LAD stenosis into a diagonal branch. The continuation of the 
LAD was 
retroflexed and had a 90% stenosis at its origin, and was a 
small 
caliber vessel that was likley intramyocardial. The diagonal 
branch was 
the larger parent vessel. The ___ had no angiographically 
apparent 
disease. The LCx was widely patent. The RCA was not injected. 
2. Limited resting hemodynamics reveal systemic arterial 
normotension 
with SBP 126 mmHg. 
3. Successful PCI of the LAD into a large diagonal branch with 
3.5x12mm 
Promus DES (see ___ comments). 
4. Unable to cross into the LAD with TIMI 2 flow at the end of 
the 
procedure (see ___ comments). 

 
Brief Hospital Course:
___ y/o female with PMH of CAD and aortic stenosis s/p mid LAD 
stenting and AVR with bioprosthesis in ___.  Underwent 
diagnostic cath on ___ which revealed 80% mid LAD stenosis 
and a focal eccentric 95% mid LAD stenosis.  Patient was 
referred for planned LAD-Diagonal branch PCI. 
.  
#CAD s/p ___ into mid LAD large diagonal:  During the 
procedure, the diagonal DES resulted in a jailed LAD which was 
unable to be rescued but showed TIMI 2 flow.  The LAD was small 
and thought to not be a dominant vessel.  She was admitted to 
the CCU for further monitoring.  Her cardiac enzymes did not 
increase and she remained chest pain free throughout the short 
hospitalization.  She was maintained on integrillin for 18hrs 
post-catheterization, and discharged on her home medications for 
CAD.
.
#HTN: her blood pressure medications were restarted and no 
changes were made as her BP was well controlled.

 
Medications on Admission:
ATORVASTATIN - 20 mg Tablet PO daily
LISINOPRIL - 20 mg Tablet PO daily
METOPROLOL SUCCINATE - 25 mg PO daily
CLOPIDOGREL [PLAVIX] -  75 mg PO daily
ASPIRIN - 81 mg Tablet PO daily
CITALOPRAM - 20 mg TabletPO daily 
NITROGLYCERIN -  0.4 mg Tablet SL PRN chest pain.
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - 20 mg Tablet PO daily.
 
Discharge Medications:
1. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) for 1 months.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*3*
3. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day.  
6. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO once a day.  
7. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual once a day as needed for chest pain.  
8. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p drug-eluting stent placement
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
It was a pleasure to take care of you at ___ 
___. 

During your hospital stay you had a procedure done to reverse 
two heart vessel narrowings. One of the narrowings was 
successfully reversed with a stent and for that you will need to 
take a medication for ___ year to prevent the wire from 
reocluding. The other narrowing you had could not be repaired. 
You were transfered to the CCU to be better watched following 
the procedure. You had no complications during your CCU stay.

We are making the following changes in your home medications:
-Aspirin from 81mg to 325mg for 1 month, daily by mouth. After 1 
month you can likely resume taking aspirin 81mg as before.  
Please speak with your cardiologist about this medication change 
first.
-Start Plavix 75mg daily by mouth. You should take this 
medication for at least ___ year to prevent reoclusion of the wire 
that was placed in one of your heart vessels.

You should continue to take all the other medications as usual.
 
Followup Instructions:
___